US08193372B2
Methyl 3-(bromomethyl)thiophene-2-carboxylate
A mixture of methyl 3-methylthiophene-2-carboxylate (13.2 mmol), N-Bromosuccinimide (13.2 mmol) and a catalytic amount of azobis-isobutyronitrile in carbon tetrachloride were heated at reflux under nitrogen. The reaction mixture was irradiated with a 500 W UV lamp for 1.5 hours, cooled down to room temperature and then filtered under autocup 0.45 μm, followed by the evaporation of the filtrate. The residue was purified by chromatography on silica gel (eluent: stepwise gradient of 3-5% diethyl ether in petroleum ether) to give 2.13 g of Intermediate IV.1 (69%), which was characterized by 1H NMR (CDCl3, 400 MHz) δ (ppm) 3.90 (s, 3H), 4.92 (s, 2H), 7.18 (d, J=5.3 Hz, 1H), 7.47 (d, J=5.3 Hz, 1H).

reactant | methyl 3-methylthiophene-2-carboxylate | 13.2 mmol | CC1=C(SC=C1)C(=O)OC | C7H8O2S
reactant | N-Bromosuccinimide | 13.2 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobis-isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 3-(bromomethyl)thiophene-2-carboxylate | 2.13 g | BrCC1=C(SC=C1)C(=O)OC | C7H7BrO2S
